US05922720
a) 2,3-Dimethyl-4-(2-hydroxyethylthio)pyridine-N-oxide
According to the procedure indicated in Example A2.a), reaction of 4-chloro-2,3-dimethylpyridine-N-oxide with 2-mercaptoethanol and sodium hydride gives the title compound as an oily residue which is employed in the subsequent step without further purification.

reactant | 4-chloro-2,3-dimethylpyridine-N-oxide | ClC1=C(C(=[N+](C=C1)[O-])C)C | C7H8ClNO
reactant | 2-mercaptoethanol | SCCO | C2H6OS
reactant | sodium hydride | [H-].[Na+]
product | 2,3-Dimethyl-4-(2-hydroxyethylthio)pyridine-N-oxide | CC1=[N+](C=CC(=C1C)SCCO)[O-] | C9H13NO2S
